US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 4-(2,5-difluoro-4-methoxyphenyl)-1-(1,3,5-trimethylphenylsulfonyl)-piperazine (268 mg). The resulting crude product was purified on TLC (developer, hexane: ethyl acetate=2:1) to provide 4-(2,5-difluoro-4-hydroxyphenyl)-1-(1,3,5-trimethylphenylsulfonyl)-piperazine (135 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 4-(2,5-difluoro-4-methoxyphenyl)-1-(1,3,5-trimethylphenylsulfonyl)-piperazine | 268 mg | FC1=C(C=C(C(=C1)OC)F)N1CCN(CC1)S(=O)(=O)C1(CC(=CC(=C1)C)C)C | C20H26F2N2O3S
product | 4-(2,5-difluoro-4-hydroxyphenyl)-1-(1,3,5-trimethylphenylsulfonyl)-piperazine | 135 mg | FC1=C(C=C(C(=C1)O)F)N1CCN(CC1)S(=O)(=O)C1(CC(=CC(=C1)C)C)C | C19H24F2N2O3S
